US07265149B2
In analogy to the procedure described for example 3 c], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 2 e]) was reacted with 2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethanol in the presence of di-tert-butyl azodicarboxylate and triphenylphosphine to give (6-{2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethanol | FC(CN1N=C(C=C1CCO)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C14H12F6N2O2
reactant | di-tert-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (6-{2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethoxy}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)CC(F)(F)F)=O | C26H23F6N3O4
